US09399646B2
Step 2: 5-((E)-1-(4-((E)-2-(2H-Tetrazol-5-yl)vinyl)phenyl)-2-phenylbut-1-en-1-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
A 40 mL vial equipped with a magnetic stir bar was charged with (E)-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylonitrile (100 mg, 0.22 mmol), trimethylsilylazide (289 μL, 2.2 mmol), and di-n-butyltin oxide (11 mg, 0.04 mmol) in anhydrous toluene (2 mL). This mixture was degassed with 3 vacuum/N2 cycles, and then refluxed overnight. The reaction was poured onto silica and eluted with hexane (50 mL) and then 20% methanol in DCM (100 mL). The filtrate was concentrated to give the crude product that was purified on a silica gel column eluted with 0-15% methanol in DCM affording the title compound (49 mg, 45%). 1H NMR (DMSO-d6, 300 MHz): δ 8.13 (s, 1H), 7.74 (d, 1H), 7.66 (m, 1H), 7.49-7.36 (m, 3H), 7.29-7.13 (m, 7H), 6.91 (d, 2H), 5.87 (dd, 1H), 3.92-3.89 (m, 1H), 3.84-3.71 (m, 1H), 2.49-2.42 (m, 3H), 2.09-1.97 (m, 2H), 1.85-1.67 (m, 1H), 1.63-1.51 (m, 2H), 0.90 (t, 3H). LCMS: 503 (M+H)+.

reactant | (E)-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylonitrile | 0.22 mmol, 100 mg | C1(=CC=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C#N)/CC | C31H29N3O
reactant | trimethylsilylazide | 2.2 mmol, 289 μL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.04 mmol, 11 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-((E)-1-(4-((E)-2-(2H-Tetrazol-5-yl)vinyl)phenyl)-2-phenylbut-1-en-1-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | N=1NN=NC1/C=C/C1=CC=C(C=C1)/C(=C(/CC)\C1=CC=CC=C1)/C=1C=C2C=NN(C2=CC1)C1OCCCC1 | C31H30N6O
